US06822097B1
Step (a) Preparation of 4-Hydroxymethyl-3-nitro-benzoic acid
To a suspension of 1-methyl-2-nitroterephthalate (10.2 g, 45.1 mmol) and 150 mL of anhydrous ether was added 5.2 mL of anhydrous MeOH at which point most of the solid went into solution. The solution was cooled to 0° C. and LiBH4 (in THF, 57.0 mL, 114.0 mmol, Aldrich) was added slowly over 50 min. Bubbles were generated. The resulting mixture was stirred at RT for 5 h, then heated to 35° C. TLC showed ˜20% conversion. 100 mL of anhydrous THF was added and the reaction was heated to 55° C. After 3 days, TLC showed reactions to be complete. The reaction was carefully quenched with the addition of H2O, and neutralized with 1N HCl. The organic layer was separated and the aqueous layer was extracted with ether (3×). The combined organic layers were washed with brine, dried over MgSO4, and concentrated in vacuo to give a light yellow solid. MS m/z: 196.1 (M−1).

reactant | 1-methyl-2-nitroterephthalate | 45.1 mmol, 10.2 g | CC1(C(=O)[O-])C(C=C(C(=O)[O-])C=C1)[N+](=O)[O-]
reactant | ether | 150 mL | CCOCC | C4H10O
reactant | MeOH | 5.2 mL | CO | CH4O
reactant | LiBH4 | 114.0 mmol, 57.0 mL | [Li+].[BH4-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4-Hydroxymethyl-3-nitro-benzoic acid | OCC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C8H7NO5
